US09353066B2
A suspension of N-[3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-4-(trifluoromethyl)pyrimidin-2-amine (1.00 g, 2.64 mmol), 3-bromobenzonitrile (0.492 g, 2.70 mmol), 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (0.054 g, 0.066 mmol), 1,4-dioxane (10 mL), and aqueous sodium carbonate (2 M, 2.64 mL, 5.27 mmol) was placed under an argon atmosphere by performing 6 vacuum/argon cycles. The reaction mixture was then heated to 160° C. for 10 minutes using a microwave reactor. The resulting suspension was diluted with ethyl acetate (75 mL) and saturated aqueous sodium bicarbonate (25 mL). The layers were separated, and the organic layer was washed with water (10 mL) and then brine (25 mL), dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by chromatography on silica gel (ethyl acetate/hexanes) to afford 3′-methyl-5′-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}biphenyl-3-carbonitrile. MS ESI calc'd. for C19H14F3N4 [M+H]+ 355, found 355.

reactant | N-[3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-4-(trifluoromethyl)pyrimidin-2-amine | 2.64 mmol, 1.00 g | CC=1C=C(C=C(C1)B1OC(C(O1)(C)C)(C)C)NC1=NC=CC(=N1)C(F)(F)F | C18H21BF3N3O2
reactant | 3-bromobenzonitrile | 2.70 mmol, 0.492 g | BrC=1C=C(C#N)C=CC1 | C7H4BrN
reactant | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
reactant | sodium carbonate | 5.27 mmol, 2 M, 2.64 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
solvent | sodium bicarbonate | 25 mL | C([O-])(O)=O.[Na+]
product | 3′-methyl-5′-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}biphenyl-3-carbonitrile | CC=1C=C(C=C(C1)NC1=NC=CC(=N1)C(F)(F)F)C1=CC(=CC=C1)C#N | C19H13F3N4
